US08426414B2
Part E: 2-Pyridin-2-yl-cyclopropane carboxylic acid
To a solution of 2-pyridin-2-yl-cyclopropanecarboxylic acid tert-butyl ester (1.6 g, 7.3 mmol) in dichloromethane (30 mL) was added a solution of anhydrous HCl in dioxane (4.0M, 15 mL). The solution was allowed to stir at ambient temperature overnight then evaporated to yield the product as a yellow oil.

reactant | 2-pyridin-2-yl-cyclopropanecarboxylic acid tert-butyl ester | 7.3 mmol, 1.6 g | C(C)(C)(C)OC(=O)C1C(C1)C1=NC=CC=C1 | C13H17NO2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dioxane | 4.0M, 15 mL | O1CCOCC1 | C4H8O2
product | 2-Pyridin-2-yl-cyclopropane carboxylic acid | N1=C(C=CC=C1)C1C(C1)C(=O)O | C9H9NO2
